US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (267 mg, 1.0 mmol) was treated with isopropylamine (1.5 mmol) following general procedure B to afford 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (256 mg). 3-Ethyl-1-isopropyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (14 mg) was prepared from 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and ethyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 314 [M+1]+.

reactant | 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.10 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC(C)C)OC | C16H20N2O3
reactant | ethyl isocyanate | 0.4 mmol | C(C)N=C=O | C3H5NO
product | 3-Ethyl-1-isopropyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 14 mg | C(C)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C(C)C)=O | C17H19N3O3
